US07622492B2
1 M NaOH (1.1 mL, 1.1 mmol) was added to a solution of (4S,7R)-4-(1,7,8,8-tetramethyl-3-oxo-1,3,4,5,6,7-hexahydro-4,7-methano-indazol-2-ylmethyl)-benzoic acid methyl ester (228 mg, 0.644 mmol) in methanol (0.9 mL) and tetrahydrofuran (1.8 mL). The reaction mixture was stirred at room temperature overnight, and it was then partitioned between water (100 mL) and ether (100 mL). The aqueous layer was acidified with 1 M HCl to pH<3 and the resulting mixture was extracted with chloroform (100 mL). The chloroform extract was washed with brine (100 mL), dried (magnesium sulfate), filtered, and evaporated to give (4S,7R)-4-(1,7,8,8-tetramethyl-3-oxo-1,3,4,5,6,7-hexahydro-4,7-methano-indazol-2-ylmethyl)-benzoic acid (168 mg, 77%) as a white solid.

reactant | NaOH | 1.1 mmol, 1 M, 1.1 mL | [OH-].[Na+]
reactant | (4S,7R)-4-(1,7,8,8-tetramethyl-3-oxo-1,3,4,5,6,7-hexahydro-4,7-methano-indazol-2-ylmethyl)-benzoic acid methyl ester | 0.644 mmol, 228 mg | COC(C1=CC=C(C=C1)CN1N(C=2[C@@]3(CC[C@H](C2C1=O)C3(C)C)C)C)=O | C21H26N2O3
solvent | methanol | 0.9 mL | CO | CH4O
solvent | tetrahydrofuran | 1.8 mL | O1CCCC1 | C4H8O
product | (4S,7R)-4-(1,7,8,8-tetramethyl-3-oxo-1,3,4,5,6,7-hexahydro-4,7-methano-indazol-2-ylmethyl)-benzoic acid | 168 mg, 77% | CN1N(C(C=2[C@H]3CC[C@@](C12)(C3(C)C)C)=O)CC3=CC=C(C(=O)O)C=C3 | C20H24N2O3
